US07244843B2
Step B. Preparation of (R)-1,3,4,10b-tetrahydro-7-chloro-9-methoxy-pyrazino[2,1-a]isoindol-6(2H)-one hydrochloride
To N-(t-butoxycarbonyl)-(R)-1,3,4,10b-tetrahydro-7-chloro-9-methoxy-pyrazino[2,1-a]isoindol-6(2H)-one (16 mg, 0.05 mmol) was added concentrated aqueous hydrochloric acid (1 mL, 12N). After 1 min, the solution was concentrated, diluted with water, and lyopholized to give a white solid (13 mg, quant). MS (ESI) 253.2, 255.2 (M−Cl).

reactant | N-(t-butoxycarbonyl)-(R)-1,3,4,10b-tetrahydro-7-chloro-9-methoxy-pyrazino[2,1-a]isoindol-6(2H)-one | 0.05 mmol, 16 mg | C(C)(C)(C)OC(=O)N1C[C@@H]2N(C(C3=C(C=C(C=C23)OC)Cl)=O)CC1 | C17H21ClN2O4
reactant | hydrochloric acid | 12N, 1 mL | Cl | ClH
product | (R)-1,3,4,10b-tetrahydro-7-chloro-9-methoxy-pyrazino[2,1-a]isoindol-6(2H)-one hydrochloride | Cl.ClC1=C2C(N3[C@H](C2=CC(=C1)OC)CNCC3)=O | InChI=1S/C12H13ClN2O2.ClH/c1-17-7-4-8-10-6-14-2-3-15(10)12(16)11(8)9(13)5-7;/h4-5,10,14H,2-3,6H2,1H3;1H/t10-;/m0./s1
